US07772226B2
(d) t-Butyl 4-[7-(2-butynyl)-2,6-dichloro-7H-purin-8-yl]piperazine-1-carboxy late
A mixture of 2.4 g of 7-(2-butynyl)-2,6,8-trichloro-7H-purine, 1.46 g of sodium bicarbonate, 2.43 g of t-butyl piperazine-1-carboxylate, and 45 ml of acetonitrile was stirred at room temperature for 2 hours and 20 minutes. Then, 0.73 g of sodium bicarbonate and 1.21 g of t-butyl piperazine-1-carboxylate were added, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was extracted with ethyl acetate-water, and the organic layer was washed with 1N hydrochloric acid, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was triturated with diethyl ether. The crystals were collected by filtration, and washed with diethyl ether. Thus, 3.0 g of the title compound was obtained as a white solid.

reactant | 7-(2-butynyl)-2,6,8-trichloro-7H-purine | 2.4 g | C(C#CC)N1C(=NC2=NC(=NC(=C12)Cl)Cl)Cl | C9H5Cl3N4
reactant | sodium bicarbonate | 1.46 g | C([O-])(O)=O.[Na+]
reactant | t-butyl piperazine-1-carboxylate | 2.43 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium bicarbonate | 0.73 g | C([O-])(O)=O.[Na+]
reactant | t-butyl piperazine-1-carboxylate | 1.21 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | t-Butyl 4-[7-(2-butynyl)-2,6-dichloro-7H-purin-8-yl]piperazine-1-carboxy late | 3.0 g | C(C#CC)N1C(=NC2=NC(=NC(=C12)Cl)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22Cl2N6O2
